US04902698
(d) 3-[5-(4-Chlorobenzenesulphonamido)pyrid-2-yl]propionic acid
A solution of 3-(5-aminopyrid-2-yl)propionic acid (1.00 g) and 4-chlorobenzenesulphonyl chloride (1.27 g) in pyridine (15 ml) was stirred at room temperature overnight. The solvent was removed and the residue was dissolved in dilute sodium hydroxide (30 ml) and extracted with chloroform (4×50 ml). The aqueous layer was acidified with dilute hydrochloric acid (pH 3) and extracted with ethyl acetate (4×100 ml). The ethyl acetate extracts were combined, dried over magnesium sulphate, the solvent was removed and the residue was recrystallised from acetonitrile to give the title compound (1.30 g). m.p. 144°-146° C.

reactant | 3-(5-aminopyrid-2-yl)propionic acid | 1.00 g | NC=1C=CC(=NC1)CCC(=O)O | C8H10N2O2
reactant | 4-chlorobenzenesulphonyl chloride | 1.27 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3-[5-(4-Chlorobenzenesulphonamido)pyrid-2-yl]propionic acid | 1.30 g | ClC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC(=NC1)CCC(=O)O | C14H13ClN2O4S
